US04613682
Illustrative Embodiment 1 is repeated with a mixture of 32 g of phenol, 56 g of methyl chloroacetate, 13 g of methanol and 8 g of dimethoxy benzene (as a gas chromatograph standard). Methyl phenoxy acetate is formed.

reactant | phenol | 32 g | C1(=CC=CC=C1)O | C6H6O
reactant | methyl chloroacetate | 56 g | ClCC(=O)OC | C3H5ClO2
reactant | dimethoxy benzene | 8 g | COC1=C(C=CC=C1)OC | C8H10O2
solvent | methanol | 13 g | CO | CH4O
product | Methyl phenoxy acetate | COC(=O)COC1=CC=CC=C1 | C9H10O3
